US07064124B2
N-Methyl-N-[5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-trifluoromethylaniline
N-Methyl-4-trifluoromethylaniline (0.200 g, 1.143 mmol), triethylamine (0.116 g, 1.143 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.193 g, 1.143 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.285 g, 0.762 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.140 g, 0.263 mmol, 35%).

reactant | N-Methyl-4-trifluoromethylaniline | 1.143 mmol, 0.200 g | CNC1=CC=C(C=C1)C(F)(F)F | C8H8F3N
reactant | triethylamine | 1.143 mmol, 0.116 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.143 mmol, 0.193 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.762 mmol, 0.285 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-[5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-trifluoromethylaniline | 0.263 mmol, 0.140 g, 35% | CN(C1=CC=C(C=C1)C(F)(F)F)C(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C27H24F3NO7
